US04006243
[4-(1-Imidazolylmethyl)-phenyl]-(2-propinyl)-ether
The above compound is prepared in analogy to Example 1 from 4-(1-imidazolylmethyl)-phenol and 1-bromo-2-propyne.

reactant | 4-(1-imidazolylmethyl)-phenol | N1C(=NC=C1)CC1=CC=C(C=C1)O | C10H10N2O
reactant | 1-bromo-2-propyne | BrCC#C | C3H3Br
product | [4-(1-Imidazolylmethyl)-phenyl]-(2-propinyl)-ether | N1C(=NC=C1)CC1=CC=C(C=C1)OCC#C | C13H12N2O
